US07659263B2
A solution of methyl (E)-5-(2-dimethylaminovinyl)-4-nitrothiophene-2-carboxylate (20 g, 78 mmol), 5% palladium/carbon (2 g) and acetic acid (20 ml) in tetrahydrofuran (300 ml) was stirred under hydrogen atmosphere (3.5 atm) at room temperature for 16 hr. The reaction mixture was filtered through celite and concentrated under reduced pressure. Diethyl ether (300 ml) was added to the residue. The mixture was washed successively with 1N hydrochloric acid (100 ml×2), water (100 ml), saturated aqueous sodium hydrogen carbonate solution (100 ml×2) and saturated brine (100 ml), and dried over magnesium sulfate. Filtration and concentration under reduced pressure gave methyl 4H-thieno[3,2-b]pyrrole-2-carboxylate (12 g, yield 87%).

reactant | methyl (E)-5-(2-dimethylaminovinyl)-4-nitrothiophene-2-carboxylate | 78 mmol, 20 g | CN(/C=C/C1=C(C=C(S1)C(=O)OC)[N+](=O)[O-])C | C10H12N2O4S
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | palladium/carbon | 2 g | [Pd] | Pd
product | methyl 4H-thieno[3,2-b]pyrrole-2-carboxylate | 12 g, yield 87% | S1C(=CC=2NC=CC21)C(=O)OC | C8H7NO2S
